simulator lang=spectre
global 0

ahdl_include "./dut/peak_detector.va"

Vin (vin 0) vsource type=pwl wave=[0 0.05 20n 0.05 20.1n 0.62 70n 0.62 82n 0.30 118n 0.30 118.1n 0.82 195n 0.82]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 8n 0.9 9n 0 96n 0 97n 0.9 114n 0.9 115n 0 205n 0]

XDUT (vin rst vout) peak_detector


tran tran stop=205n maxstep=500p
save vin rst vout
